US04780537
Preparation of 6-amino-1,2-dihydro-1-acetoxy-2-imino-4-p-toluenesulfonyloxy-pyrimidine
2.8 g (0.001 mole) of 2,6-diamino-4-tosyloxypyrimidine are added to 70 ml of absolute ethanol. 5 ml of a 70% aqueous hydrogen peroxide solution are added to the obtained suspension at 40° C., then 3 ml of acetic anhydride are added dropwise. The suspension is homogenised by heating to 60° C., and the solution gets slowly opalescent while standing. Tracing the reaction by thin layer chromatography it will be found that the reaction has completed and the aimed compound is accompanied by some diacetyl compound. By filtering the reaction mixture 0.35 g of a solid material is separated. If the ethyl alcohol is distilled off and the residue is allowed to stand in a refrigerator, no product separation can be observed. Of decanting the water and dissolving the residue in ethanol a crystalline product is obtained. In this way 1.95 g (54%) of the aimed compound are obtained.

reactant | 2,6-diamino-4-tosyloxypyrimidine | 0.001 mole, 2.8 g | NC1=NC(=CC(=N1)OS(=O)(=O)C1=CC=C(C)C=C1)N | C11H12N4O3S
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 6-amino-1,2-dihydro-1-acetoxy-2-imino-4-p-toluenesulfonyloxy-pyrimidine | NC1=CC(=NC(N1OC(C)=O)=N)OS(=O)(=O)C1=CC=C(C=C1)C | C13H14N4O5S
